US09023851B2
(8-Chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-yl-(6-methoxy-pyridin-3-yl)-amine
To a solution of 2-methoxypyridyl-5-isothiocyanate (3 g, 18.07 mmol) in dry dichloromethane (200 ml), 1,2-diamino-pyrazinium mesitylenate (7.77 g, 22.5 mmol), diisopropylethylamine (11.67 g, 90.35 mmol) and EDCl (3.44 g, 36.14 mmol) are added and stirred for 6 hours. The reaction mixture is concentrated and the residue is taken in water (100 ml), triturated and filtered, washed with water (50 ml×2) and 50% diethylether in hexane to get the titled product as light brown solid (4 g, 80.32%); TLC: chloroform/methanol (9.5/0.5) Rf-0.3;

reactant | 1,2-diamino-pyrazinium mesitylenate | 22.5 mmol, 7.77 g | C1(=CC(=CC(=C1)C)C)C(=O)[O-].N[N+]1=C(C=NC=C1)N
reactant | diisopropylethylamine | 90.35 mmol, 11.67 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EDCl | 36.14 mmol, 3.44 g | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 8-Chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-yl-(6-methoxy-pyridin-3-yl)-amine | 4 g, 80.32% | ClC=1C=2N(C=CN1)N=C(N2)NC=2C=NC(=CC2)OC | C11H9ClN6O
